US07202245B2
4-Isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid-methoxy-methyl-amide
A mixture of 4-isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid (130 mg), N,O-dimethylhydroxylamine hydrochloride (39 mg), HOBT (54 mg), and EDC (77 mg) in DMF (4.0 mL) was stirred at 23° C. for 20 hrs. The solution was then diluted with EtOAc and washed sequentially with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride solutions. The organic layer was dried over sodium sulfate, filtered, and the filtrate concentrated to afford the title compound as a light yellow solid. MS (M+H)+=331.6.

reactant | 4-isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid | 130 mg | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)C(=O)O)C(NN2)=O | C13H13N5O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 39 mg | Cl.CNOC
reactant | HOBT | 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 77 mg
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid-methoxy-methyl-amide | CON(C(=O)C=1C=C2N=C(C=3N(C2=CC1)C(NN3)=O)NC(C)C)C | C15H18N6O3
